US08211513B2
75.0 g (0.20 mol) of 4-bromo-2-(4-bromo-3-fluorophenyl)-5-ethyltetrahydropyran are heated at 105° C. for 18 h in 400 ml of toluene together with 60.0 g (0.24 mol) of bis(pinacolato)diboron, 50.0 g (0.51 mol) of potassium acetate and 1.5 g (2.04 mmol) of [1,1′-bis(diphenylphosphine)ferrocene]-palladium(II) chloride. After cooling, the mixture is washed with water, and the organic phase is separated off. The aqueous phase is extracted with toluene, and the combined organic phases are washed with saturated sodium chloride solution. The solution is dried using sodium sulfate and concentrated to dryness. The crude product is purified by column chromatography (SiO2, n-heptane:toluene=1:1), giving 4-bromo-5-ethyl-2-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydropyran as a yellowish oil.

reactant | 4-bromo-2-(4-bromo-3-fluorophenyl)-5-ethyltetrahydropyran | 0.20 mol, 75.0 g | BrC1CC(OCC1CC)C1=CC(=C(C=C1)Br)F | C13H15Br2FO
reactant | bis(pinacolato)diboron | 0.24 mol, 60.0 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.51 mol, 50.0 g | C(C)(=O)[O-].[K+]
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-5-ethyl-2-[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]tetrahydropyran | BrC1CC(OCC1CC)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C19H27BBrFO3
